*** Extracted spice netlist generated from MAX ***

.SUBCKT MMI_FFNCB clk clrb d q
C_1 vdd gnd 7.4039fF
C_2 d gnd 0.89897fF
C_3 net_1 gnd 1.85179fF
C_4 net_2 gnd 5.47066fF
C_5 net_3 gnd 3.76272fF
C_6 net_4 gnd 2.83525fF
C_7 clrb gnd 4.77317fF
C_8 clk gnd 3.30053fF
C_9 net_6 gnd 2.90888fF
C_10 net_8 gnd 1.91456fF
C_11 net_10 gnd 2.96551fF
C_12 q gnd 0.98433fF
C_13 gnd gnd 7.68664fF
Mp_1 vdd d net_1 vdd p W=1.84U L=0.18U AD=0.766364P PD=4.88705U AS=0.8832P 
+ PS=4.96U
Mp_2 net_1 net_2 net_3 vdd p W=0.92U L=0.18U AD=0.4416P PD=2.48U AS=0.4416P 
+ PS=3.15821U
Mp_3 net_4 clrb vdd vdd p W=1.2U L=0.18U AD=0.576P PD=3.36U AS=0.499802P 
+ PS=3.18721U
Mp_4 vdd clk net_2 vdd p W=0.92U L=0.18U AD=0.383182P PD=2.44353U 
+ AS=0.4416P PS=2.8U
Mp_5 vdd net_4 net_5 vdd p W=1.84U L=0.18U AD=0.766364P PD=4.88705U 
+ AS=0.3588P PS=2.23U
Mp_6 net_5 net_3 net_6 vdd p W=1.84U L=0.18U AD=0.3588P PD=2.23U 
+ AS=0.781867P PS=5.81333U
Mp_7 vdd net_6 net_7 vdd p W=0.42U L=0.18U AD=0.174931P PD=1.11552U 
+ AS=0.0819P PS=0.81U
Mp_8 net_7 clk net_3 vdd p W=0.42U L=0.18U AD=0.0819P PD=0.81U AS=0.2016P 
+ PS=1.44179U
Mp_9 net_6 clk net_8 vdd p W=0.92U L=0.18U AD=0.390933P PD=2.90667U 
+ AS=0.333466P PS=2.72567U
Mp_10 net_8 net_2 net_9 vdd p W=0.42U L=0.18U AD=0.152234P PD=1.24433U 
+ AS=0.0819P PS=0.81U
Mp_11 net_9 net_10 vdd vdd p W=0.42U L=0.18U AD=0.0819P PD=0.81U 
+ AS=0.174931P PS=1.11552U
Mp_12 vdd clrb net_10 vdd p W=0.92U L=0.18U AD=0.383182P PD=2.44353U 
+ AS=0.2484P PS=1.46U
Mp_13 net_10 net_8 vdd vdd p W=0.92U L=0.18U AD=0.2484P PD=1.46U 
+ AS=0.383182P PS=2.44353U
Mp_14 vdd net_10 q vdd p W=1.84U L=0.18U AD=0.766364P PD=4.88705U 
+ AS=0.8832P PS=4.64U
Mn_1 net_1 clk net_3 gnd n W=0.42U L=0.18U AD=0.2016P PD=1.44179U 
+ AS=0.2016P PS=1.8U
Mn_2 net_2 clk gnd gnd n W=0.46U L=0.18U AD=0.2208P PD=1.88U AS=0.19058P 
+ PS=1.46576U
Mn_3 net_6 net_2 net_8 gnd n W=0.42U L=0.18U AD=0.152579P PD=1.24119U 
+ AS=0.1134P PS=0.96U
Mn_4 net_8 clk net_11 gnd n W=0.42U L=0.18U AD=0.1134P PD=0.96U AS=0.08085P 
+ PS=0.805U
Mn_5 net_11 net_10 gnd gnd n W=0.42U L=0.18U AD=0.08085P PD=0.805U 
+ AS=0.174008P PS=1.33831U
Mn_6 net_1 d gnd gnd n W=0.92U L=0.18U AD=0.4416P PD=3.15821U AS=0.381161P 
+ PS=2.93153U
Mn_7 gnd net_4 net_6 gnd n W=0.46U L=0.18U AD=0.19058P PD=1.46576U 
+ AS=0.16711P PS=1.3594U
Mn_8 net_6 net_3 gnd gnd n W=0.46U L=0.18U AD=0.16711P PD=1.3594U 
+ AS=0.19058P PS=1.46576U
Mn_9 net_3 net_2 net_12 gnd n W=0.42U L=0.18U AD=0.2016P PD=1.8U AS=0.0819P 
+ PS=0.81U
Mn_10 gnd clrb net_4 gnd n W=0.6U L=0.18U AD=0.248583P PD=1.91186U 
+ AS=0.288P PS=2.16U
Mn_11 net_12 net_6 gnd gnd n W=0.42U L=0.18U AD=0.0819P PD=0.81U 
+ AS=0.174008P PS=1.33831U
Mn_12 gnd clrb net_13 gnd n W=1.24U L=0.18U AD=0.513738P PD=3.95119U 
+ AS=0.2418P PS=1.63U
Mn_13 net_13 net_8 net_10 gnd n W=1.24U L=0.18U AD=0.2418P PD=1.63U 
+ AS=0.5952P PS=3.44U
Mn_14 gnd net_10 q gnd n W=0.92U L=0.18U AD=0.381161P PD=2.93153U 
+ AS=0.4416P PS=2.8U
.ENDS	$ MMI_FFNCB

.GLOBAL gnd vdd

