*** Extracted spice netlist generated from MAX ***

.SUBCKT MMI_INVA in out
C_1 vdd gnd 1.03202fF
C_2 in gnd 0.607255fF
C_3 out gnd 0.561235fF
C_4 gnd gnd 0.96362fF
Mp_1 vdd in out vdd p W=0.77U L=0.15U AD=0.30415P PD=2.33U AS=0.30415P 
+ PS=2.33U
Mn_1 gnd in out gnd n W=0.385U L=0.15U AD=0.152075P PD=1.56U AS=0.152075P 
+ PS=1.56U
.ENDS	$ MMI_INVA

.GLOBAL gnd vdd

