*** Extracted spice netlist generated from MAX ***

.SUBCKT MMI_INVA in out
C_1 vdd gnd 1.27229fF
C_2 in gnd 0.72864fF
C_3 out gnd 0.68545fF
C_4 gnd gnd 1.18805fF
Mp_1 vdd in out vdd p W=0.92U L=0.18U AD=0.4416P PD=2.8U AS=0.4416P PS=2.8U
Mn_1 gnd in out gnd n W=0.46U L=0.18U AD=0.2208P PD=1.88U AS=0.2208P 
+ PS=1.88U
.ENDS	$ MMI_INVA

.GLOBAL gnd vdd

