*** Extracted spice netlist generated from MAX ***

.SUBCKT MMI_MUXI2C in0 in1 out sel
C_1 vdd gnd 5.54972fF
C_2 in0 gnd 1.80868fF
C_3 net_1 gnd 4.07189fF
C_4 sel gnd 4.01354fF
C_5 out gnd 4.06861fF
C_6 net_2 gnd 4.17006fF
C_7 net_3 gnd 4.18878fF
C_8 in1 gnd 1.99616fF
C_9 gnd gnd 4.43471fF
Mp_1 vdd in0 net_1 vdd p W=2.455U L=0.18U AD=0.769273P PD=3.6862U 
+ AS=0.66285P PS=2.995U
Mp_2 net_1 in0 vdd vdd p W=2.455U L=0.18U AD=0.66285P PD=2.995U 
+ AS=0.769273P PS=3.6862U
Mp_3 vdd in0 net_1 vdd p W=2.455U L=0.18U AD=0.769273P PD=3.6862U 
+ AS=0.66285P PS=2.995U
Mp_4 net_1 sel out vdd p W=2.455U L=0.18U AD=0.66285P PD=2.995U AS=0.66285P 
+ PS=2.995U
Mp_5 out sel net_1 vdd p W=2.455U L=0.18U AD=0.66285P PD=2.995U AS=0.66285P 
+ PS=2.995U
Mp_6 net_1 sel out vdd p W=2.455U L=0.18U AD=0.66285P PD=2.995U AS=0.66285P 
+ PS=2.995U
Mp_7 out net_2 net_3 vdd p W=2.455U L=0.18U AD=0.66285P PD=2.995U 
+ AS=0.66285P PS=2.995U
Mp_8 net_3 net_2 out vdd p W=2.455U L=0.18U AD=0.66285P PD=2.995U 
+ AS=0.66285P PS=2.995U
Mp_9 out net_2 net_3 vdd p W=2.455U L=0.18U AD=0.66285P PD=2.995U 
+ AS=0.66285P PS=2.995U
Mp_10 net_3 in1 vdd vdd p W=2.455U L=0.18U AD=0.66285P PD=2.995U 
+ AS=0.769273P PS=3.6862U
Mp_11 vdd in1 net_3 vdd p W=2.455U L=0.18U AD=0.769273P PD=3.6862U 
+ AS=0.66285P PS=2.995U
Mp_12 net_3 in1 vdd vdd p W=2.455U L=0.18U AD=0.66285P PD=2.995U 
+ AS=0.769273P PS=3.6862U
Mp_13 vdd sel net_2 vdd p W=1.84U L=0.18U AD=0.576563P PD=2.76278U 
+ AS=0.8832P PS=4.64U
Mn_1 gnd in0 net_1 gnd n W=1.23U L=0.18U AD=0.385479P PD=2.23475U 
+ AS=0.3321P PS=1.77U
Mn_2 net_1 in0 gnd gnd n W=1.23U L=0.18U AD=0.3321P PD=1.77U AS=0.385479P 
+ PS=2.23475U
Mn_3 gnd in0 net_1 gnd n W=1.23U L=0.18U AD=0.385479P PD=2.23475U 
+ AS=0.3321P PS=1.77U
Mn_4 net_1 net_2 out gnd n W=1.23U L=0.18U AD=0.3321P PD=1.77U AS=0.3321P 
+ PS=1.77U
Mn_5 out net_2 net_1 gnd n W=1.23U L=0.18U AD=0.3321P PD=1.77U AS=0.3321P 
+ PS=1.77U
Mn_6 net_1 net_2 out gnd n W=1.23U L=0.18U AD=0.3321P PD=1.77U AS=0.3321P 
+ PS=1.77U
Mn_7 out sel net_3 gnd n W=1.23U L=0.18U AD=0.3321P PD=1.77U AS=0.370025P 
+ PS=1.83167U
Mn_8 net_3 sel out gnd n W=1.23U L=0.18U AD=0.370025P PD=1.83167U 
+ AS=0.3321P PS=1.77U
Mn_9 out sel net_3 gnd n W=1.23U L=0.18U AD=0.3321P PD=1.77U AS=0.370025P 
+ PS=1.83167U
Mn_10 net_3 in1 gnd gnd n W=1.23U L=0.18U AD=0.370025P PD=1.83167U 
+ AS=0.385479P PS=2.23475U
Mn_11 gnd in1 net_3 gnd n W=1.23U L=0.18U AD=0.385479P PD=2.23475U 
+ AS=0.370025P PS=1.83167U
Mn_12 net_3 in1 gnd gnd n W=1.23U L=0.18U AD=0.370025P PD=1.83167U 
+ AS=0.385479P PS=2.23475U
Mn_13 gnd sel net_2 gnd n W=0.92U L=0.18U AD=0.288326P PD=1.67152U 
+ AS=0.4416P PS=2.8U
.ENDS	$ MMI_MUXI2C

.GLOBAL gnd vdd

